US07238714B2
Step 1. Methyl 4-[({[5-chloro-2-(4-fluorophenoxy)pyridin-3-yl]carbonyl}amino)methyl]benzoate
To a stirred solution of 5-chloro-2-(4-fluorophenoxy)nicotinic acid (150 mg, 0.56 mmol), methyl 4-(aminomethyl)benzoate hydrochloride (136 mg, 0.67 mmol), and triethylamine (0.31 mL, 2.24 mmol) in dichloromethane (8 mL) was added 2-bromo-1-ethylpyridinium tetrafluoroborate (230 mg, 0.84 mmol) at 0° C. The resulting mixture was warmed to room temperature and stirred for 16 h. The mixture was diluted with dichloromethane (50 mL) and washed with 1N hydrochloric acid (30 mL), saturated aqueous sodium hydrogen carbonate solution (30 mL), and brine (30 mL). The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by flush column chromatography on silica gel eluting with hexane/ethyl acetate (2:1) to afford 155 mg (67%) of the title compounds as white solids: 1H-NMR (CDCl3) δ 8.59 (1H, dd, J=2.6, 0.9 Hz), 8.26–8.17 (1H, m), 8.13 (1H, dd, J=2.8, 0.9 Hz), 8.00 (2H, d, J=8.1 Hz), 7.41 (2H, d, J=8.1 Hz), 7.15–7.07 (4H, m), 4.76 (2H, d, J=5.9 Hz), 3.90 (3H, s); MS (ESI) m/z 415 (M+H)+, 413 (M−H)−.

reactant | 5-chloro-2-(4-fluorophenoxy)nicotinic acid | 0.56 mmol, 150 mg | ClC=1C=NC(=C(C(=O)O)C1)OC1=CC=C(C=C1)F | C12H7ClFNO3
reactant | methyl 4-(aminomethyl)benzoate hydrochloride | 0.67 mmol, 136 mg | Cl.NCC1=CC=C(C(=O)OC)C=C1
reactant | triethylamine | 2.24 mmol, 0.31 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-1-ethylpyridinium tetrafluoroborate | 0.84 mmol, 230 mg | F[B-](F)(F)F.BrC1=[N+](C=CC=C1)CC
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Methyl 4-[({[5-chloro-2-(4-fluorophenoxy)pyridin-3-yl]carbonyl}amino)methyl]benzoate | 155 mg, 67% | ClC=1C=C(C(=NC1)OC1=CC=C(C=C1)F)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C21H16ClFN2O4
